US04954160
Preparation of 2-[1-(allyloxyimino)butyl]-5,5-dimethyl-3-hydroxy-4-phenyl cyclohex-2-ene-1-one
Triethylamine (1.2 g) was added to a solution of 2-butyryl-5,5-dimethyl -3-hydroxy-4-phenyl cyclohex-2-ene-1-one (2.8 g) and O-allylhydroxylamine hydrochloride (1.2 g) in ethanol (50 ml). After stirring at ambient temperature overnight, the ethanol was evaporated in vacuo, water was added to the residue and the aqueous solution extracted with methylene chloride. After drying the organic extracts over anhydrous magnesium sulphate, the methylene chloride was evaporated in vacuo. The residue was chromatographed on a silica gel column using 5% (v/v) diethyl ether-methylene chloride as eluant to give the title compound (2.1 g) as a viscous, colourless oil.

reactant | Triethylamine | 1.2 g | C(C)N(CC)CC | C6H15N
reactant | 2-butyryl-5,5-dimethyl -3-hydroxy-4-phenyl cyclohex-2-ene-1-one | 2.8 g | C(CCC)(=O)C=1C(CC(C(C1O)C1=CC=CC=C1)(C)C)=O | C18H22O3
reactant | O-allylhydroxylamine hydrochloride | 1.2 g | Cl.C(C=C)ON
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-[1-(allyloxyimino)butyl]-5,5-dimethyl-3-hydroxy-4-phenyl cyclohex-2-ene-1-one | 2.1 g | C(C=C)ON=C(CCC)C=1C(CC(C(C1O)C1=CC=CC=C1)(C)C)=O | C21H27NO3
